US07138533B2
8-(5-Chloropentanoyl)-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-2(1H)-one
Using 5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-2(1H)-one (3.46 g) and 5-chlorovaleryl chloride (3.4 g) according to the same method as that of Reference Example 1, the title compound (3.78 g) was obtained as pale yellow crystals having a melting point of 89 to 90° C.

reactant | 5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-2(1H)-one | 3.46 g | C1C(N2CCCC3=CC=CC1=C23)=O | C11H11NO
reactant | 5-chlorovaleryl chloride | 3.4 g | ClCCCCC(=O)Cl | C5H8Cl2O
product | 8-(5-Chloropentanoyl)-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-2(1H)-one | 3.78 g | ClCCCCC(=O)C=1C=C2CCCN3C2=C(C1)CC3=O | C16H18ClNO2
